US07981903B2
To a suspension of 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (5.0 g, 10.87 mmol), 1-[(dimethylamino)acetyl]-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine (3.44 g, 13.05 mmol), and potassium iodide (0.090 g, 0.544 mmol) in trifluroethanol (250 ml) was added 4M HCl/dioxane (10.87 ml, 43.5 mmol). The reaction was heated overnight in a pressure vessel equipped with a threaded teflon cap. The reaction was diluted with THF (300 ml) and washed with saturated NaHCO3 (300 ml). The organic layer was removed, concentrated on rotovap, solids triturated from ethyl acetate/hexanes, and dried under house vacuum prior to next step to afford 5-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (5.0 g, 68%). ESIMS (M+H)+=670.

reactant | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 10.87 mmol, 5.0 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F | C20H15ClFN5O3S
reactant | 1-[(dimethylamino)acetyl]-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine | 13.05 mmol, 3.44 g | CN(C)CC(=O)N1CCCC2=CC(=C(C=C12)N)OC | C14H21N3O2
reactant | HCl dioxane | 43.5 mmol, 4M, 10.87 ml | Cl.O1CCOCC1
solvent | trifluroethanol | 250 ml | C(C(F)(F)F)O | C2H3F3O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | potassium iodide | 0.544 mmol, 0.090 g | [I-].[K+]
product | 5-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 5.0 g, 68% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C34H32FN7O5S
